US08420670B2
N-{2-[4-(3,4-Dichlorobenzylamino)-2-methylquinolin-8-yloxy]-ethyl}-C,C,C-trifluoromethanesulfonamide
Preparation was made using a similar procedure as described in example 21. Starting materials were [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride and trifluoromethanesulfonyl chloride.

reactant | [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride | Cl.Cl.NCCOC=1C=CC=C2C(=CC(=NC12)C)NCC1=CC(=C(C=C1)Cl)Cl
reactant | trifluoromethanesulfonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
product | N-{2-[4-(3,4-Dichlorobenzylamino)-2-methylquinolin-8-yloxy]-ethyl}-C,C,C-trifluoromethanesulfonamide | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)OCCNS(=O)(=O)C(F)(F)F)C)C=CC1Cl | C20H18Cl2F3N3O3S
